US06677349B1
1-(2-Amino-2-methylpropyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline-4-amine (111 mg, 0.355 mmol) was dissolved in 5 mL of anhydrous CH2Cl2 and cooled to 0° C. under N2. To the stirred solution were added Et3N (99 μL, 0.71 mmol) and methanesulfonyl chloride (28 μL, 0.36 mmol) and the reaction was allowed to warm to ambient temperature overnight. The reaction mixture was then quenched by addition of saturated NaHCO3 solution (5 mL). The organic layer was separated and washed with H2O (2×5 mL) and brine, dried over Na2SO4 and concentrated under reduced pressure to give a tan foam. Purification by column chromatography (SiO2, 2.5%-5% MeOH/CHCl3) gave N-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}methanesulfonamide (75 mg) as a white foam.

reactant | 1-(2-Amino-2-methylpropyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline-4-amine | 0.355 mmol, 111 mg | NC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC)(C)C | C17H23N5O
reactant | Et3N | 0.71 mmol, 99 μL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.36 mmol, 28 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}methanesulfonamide | 75 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC | C18H25N5O3S
